US07994185B2
Step A: N-{5-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-imidazole-4-sulfonamide
{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}amine (160 mg, 0.459 mmol) was dissolved in DMF (3 mL) and added pyridine (0.074 mL; 0.917 mmol). The reaction was stirred 5 min and added 1-methylimidazole-4-sulfonyl chloride (83 mg, 0.459 mmol). The reaction mixture was heated at 45° C. for two days. The reaction mixture was cooled to rt, added silica gel, and concentrated. The crude product was chromatographed on silica gel eluting with 100% DCM to 100% EtOAc to obtained the title compound as a white solid (150 mg, 66% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.12 (br. s., 1H), 8.49 (d, J=5.4 Hz, 1H), 7.52-7.83 (m, 2H), 7.51 (d, J=1.8 Hz, 1H), 7.28-7.43 (m, 1H), 7.25 (t, J=9.3 Hz, 1H), 7.05 (d, J=5.3 Hz, 1H), 3.58 (s, 3H), 3.00-3.23 (m, 1H), 1.35 (d, J=6.9 Hz, 6H).

reactant | {5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}amine | 0.459 mmol, 160 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)N)F | C16H14ClFN4S
reactant | pyridine | 0.917 mmol, 0.074 mL | N1=CC=CC=C1 | C5H5N
reactant | 1-methylimidazole-4-sulfonyl chloride | 0.459 mmol, 83 mg | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-{5-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-imidazole-4-sulfonamide | 150 mg, 66% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C=1N=CN(C1)C)F | C20H18ClFN6O2S2
